US04262125
Carbamimidothioic acid (4-methyl-1H-imidazol-5-ylmethyl)ester, dihydrobromide
A mixture of 12.8 g of 4-bromomethyl-5-methyl imidazole hydrobromide and 4 g. of thiourea in 200 ml. of EtOH is heated at reflux for 3 hr., cooled and the product is filtered off to give the title compound, m.p. 130°-132° C. (dec.).

reactant | 4-bromomethyl-5-methyl imidazole hydrobromide | 12.8 g | Br.BrCC=1N=CNC1C
reactant | thiourea | NC(=S)N | CH4N2S
solvent | EtOH | CCO | C2H6O
product | Carbamimidothioic acid (4-methyl-1H-imidazol-5-ylmethyl)ester, dihydrobromide | Br.Br.CC=1N=CNC1CSC(N)=N | InChI=1S/C6H10N4S.2BrH/c1-4-5(10-3-9-4)2-11-6(7)8;;/h3H,2H2,1H3,(H3,7,8)(H,9,10);2*1H
